US07842688B2
b) Benzyl 3-[1-(2-aminoethyl)-7-bromo-3-methyl-1H-indol-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 0.240 g of benzyl 3-(7-bromo-1-cyanomethyl-3-methyl-1H-indol-6-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 1.5 ml of tetrahydrofuran is cooled to 0° C. with stirring and admixed with 1.22 ml of diborane (1M in tetrahydrofuran). The reaction mixture is stirred at 0° C. over 1 hour and subsequently admixed cautiously with 1.0 ml of methanol and concentrated by evaporation. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.46 (200:20:1 dichloromethane-methanol-conc. ammonia); Rt=5.45.

reactant | benzyl 3-(7-bromo-1-cyanomethyl-3-methyl-1H-indol-6-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.240 g | BrC=1C(=CC=C2C(=CN(C12)CC#N)C)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1 | C42H44BrN3O6
reactant | diborane | 1M, 1.22 ml | B#B | B2
reactant | methanol | 1.0 ml | CO | CH4O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | Benzyl 3-[1-(2-aminoethyl)-7-bromo-3-methyl-1H-indol-6-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | NCCN1C=C(C2=CC=C(C(=C12)Br)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1)C | C42H48BrN3O6
